US07470705B2
Step 2. Preparation of (+/−)-cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-(5-methyl-[1,2,4]oxadiazol-3-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester
To (+/−)-cis-4-[N-(3,5-bis-trifluoromethyl-benzyl)-hydroxyguanidino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester (80 mg, 0.13 mmol), add acetic anhydride (0.5 mL). Seal the tube and heat the reaction mixture at 80° C. overnight. Cool down the mixture and remove the solvents under reduced pressure. Add 2 N NaOH (2 mL) and ether to the crude material. Separate the layers, and extract the aqueous phase with ether. Dry the combined organic phase, filter, and concentrate in vacuo. Purify the residue by flash chromatography, eluting with hexanes/ethyl acetate, to afford the title compound (32 mg, %). MS (ES+): 640 (M+H).

reactant | (+/−)-cis-4-[N-(3,5-bis-trifluoromethyl-benzyl)-hydroxyguanidino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 0.13 mmol, 80 mg | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)C(F)(F)F)N(C(=NO)N)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C25H26F9N5O3
reactant | acetic anhydride | 0.5 mL | C(C)(=O)OC(C)=O | C4H6O3
product | (+/−)-cis-4-[(3,5-Bis-trifluoromethyl-benzyl)-(5-methyl-[1,2,4]oxadiazol-3-yl)-amino]-2-ethyl-6-trifluoromethyl-3,4-dihydro-2H-[1,5]naphthyridine-1-carboxylic acid isopropyl ester | 32 mg | C(C)(C)OC(=O)N1[C@H](C[C@H](C2=NC(=CC=C12)C(F)(F)F)N(C1=NOC(=N1)C)CC1=CC(=CC(=C1)C(F)(F)F)C(F)(F)F)CC | C27H26F9N5O3
